US05929117
A. 3,4-Dimethoxy-3'-nitrobenzophenone
To a stirred ice bath cooled solution of veratrole (2.55 mL, 20 mmol) in methylene chloride (30 mL) under nitrogen was added aluminum chloride (2.93 g, 22 mmol). A slight exotherm resulted. To the resulting mixture was added 3-nitrobenzoyl chloride (3.8 g, 20 mmol) in 30 mL of methylene chloride. The reaction was then allowed to warm to room temperature and followed by heating to refluxed. After 5 hours at reflux the reaction mixture was allowed to cool to room temperature and stirred for 72 hours. The reaction mixture was then poured into 100 mL of iced water and stirred for 20 minutes. This mixture was extracted with CH2Cl2 (3×60 mL). The organic layer was dried over magnesium sulfate and concentrated in vacuo to afford the crude product as a green solid. The crude product was purified by flash column chromatography (silica gel, CH2Cl2) to afford 2.21 g (39%) of the product as a yellow solid: mp 133-135° C.; 1H NMR (CDCl3) δ 8.64-8.56 (m, 1H), 8.49-8.39 (m, 1H), 8.10-8.05 (m, 1H), 7.76-7.65 (m, 1H), 7.55-7.47 (m, 1H), 7.36-7.29 (m, 1H), 7.00-6.87 (m, 1H), 3.99 (s, 3H), 3.97 (s, 3H); 13C NMR (CDCl3) δ 192.8, 153.8, 149.4, 147.9, 139.7, 135.2, 129.5, 128.9, 126.2, 125.6, 124.4, 11.8, 110.0, 56.2, 56.1; Anal. Calcd for C15H13NO5. Theoretical: C, 62.72; H, 4.56; N, 4.88. Found: C, 62.74; H, 4.59; N, 4.89.

reactant | veratrole | 20 mmol, 2.55 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 22 mmol, 2.93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-nitrobenzoyl chloride | 20 mmol, 3.8 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dimethoxy-3'-nitrobenzophenone | 2.21 g, 39% | COC=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1OC | C15H13NO5
